US06127548
Preparation of 2-butyl-3-dimethylaminomethylimidazole
12.4 g of butylimidazole and 20.4 g of bis-(dimethylamino)methane were refluxed in 100 ml of tetrahydrofuran for 24 hours. The solvent was evaporated to give 18.64 g of product. The yield was quantitative. Other data concerning the product was:

reactant | butylimidazole | 12.4 g | C(CCC)C=1NC=CN1 | C7H12N2
reactant | bis-(dimethylamino)methane | 20.4 g | CN(C)CN(C)C | C5H14N2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-butyl-3-dimethylaminomethylimidazole | 18.64 g | C(CCC)C1=NC=CN1CN(C)C | C10H19N3
